US09085570B2
To a solution of tert-butyl N-(4-hydroxycyclohexyl)carbamate (15 g, 69.67 mmol, 1.00 equiv), acetic acid (16.7 g, 278.09 mmol, 4.00 equiv) and triphenylphosphane (73 g, 278.32 mmol, 4.00 equiv). In tetrahydrofuran (200 mL) was added diethyl azodicarboxylate (48.55 g, 278.78 mmol, 4.00 equiv) dropwise with stiffing at 0° C. The resulting solution was stirred overnight at room temperature and then 200 mL of aqueous sodium bicarbonate solution was added. The resulting mixture was extracted with 3×100 mL of ethyl acetate. The combined organic layers was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was triturated with 500 mL of a 1:1 mixture of ether and hexane. The solid triphenylphosphine oxide was removed by filtration. The filtrate was concentrated under vacuum and purified on a silica gel column eluted with ethyl acetate/petroleum ether (1:15) to give 3.8 g (21%) of 4-[[(tert-butoxy)carbonyl]amino]cyclohexyl acetate as a white solid.

reactant | tert-butyl N-(4-hydroxycyclohexyl)carbamate | 69.67 mmol, 15 g, 1.00 equiv | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | acetic acid | 278.09 mmol, 16.7 g, 4.00 equiv | C(C)(=O)O | C2H4O2
reactant | triphenylphosphane | 278.32 mmol, 73 g, 4.00 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 278.78 mmol, 48.55 g, 4.00 equiv | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-[[(tert-butoxy)carbonyl]amino]cyclohexyl acetate | 3.8 g, 21% | C(C)(=O)OC1CCC(CC1)NC(=O)OC(C)(C)C | C13H23NO4
